US07585868B2
Synthesis of 2-amino-5-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol (BA20dd).
BA20 (tert-butyl 4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenylcarbamate, 7 mg, 0.018 mmol) was dissolved in CH2Cl2 (2.5 ml) and stirred under an argon atmosphere at room temperature. BBr3 (0.500 ml) was added slowly with a syringe. The reaction mixture was stirred overnight, under argon at room temperature. BBr3 was removed in vacuo and the remaining solid was purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA20dd.

reactant | tert-butyl 4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenylcarbamate | 0.018 mmol, 7 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC)C(C)C | C20H26N6O3
reactant | BBr3 | 0.500 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-5-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C(C)C)O | C14H16N6O
